US04115348
Equal molar quantities of p-hydroxybenzaldehyde and o-aminophenol in excess nitrobenzene was refluxed for 5 hours. The nitrobenzene was removed and the residue was washed with hot xylene. 2-(4-Hydroxyphenyl)benzoxazole was obtained by crystallization from ethanol in 64% yield (m.p. 253°). A mixture of the sodium salt of 2-(4-hydroxyphenyl)benzoxazole (0.01 mole) and 4-(2-bromoethoxy)-2-hydroxybenzophenone (0.01 mole) in 250 ml of ethanol was refluxed for 20 hours. The reaction mixture was cooled, 200 ml of water was added and the product, I, was filtered out. Other multichromophoric compounds can be prepared by substitution of other benzoxazoles for 2-(p-hydroxyphenyl)benzoxazole.

reactant | p-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | o-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
solvent | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2-(4-Hydroxyphenyl)benzoxazole | 64% yield | OC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H9NO2
